US07947715B2
3,4-Dichloro-5-trifluoromethyl-1-[1-(trifluoromethyl)ethenyl]benzene
To a stirred solution of 5-bromo-2,3-dichlorobenzotrifluoride (26.2 g) and diisopropyl ether (9.1 g) in hexane (250 mL) at −10° C. was added dropwise 1.55M n-butyllithium in hexane (57.5 mL). After stirring at same temperature for 0.5 hour, trimethoxyborane (9.26 g) in tetrahydrofuran (30 mL) was added dropwise. After a further 10 minutes, water (150 mL), 2-bromo-3,3,3-trifluoropropene (23.4 g), potassium carbonate (36.9 g) and 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene(1,4-naphthoquinone)palladium(0) dimer (0.131 g) were added to the reaction mixture, which was stirred at 60° C. for 4 hours. After the completion of the reaction, the reaction mixture was cooled to room temperature, poured into ice-water (50 mL) and ethyl acetate (75 mL) and filtered. The filtrate was separated, and the organic layer was washed with water and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide a residue. The residue was purified by column chromatography on silica gel eluted with hexane to afford the title compound as a colorless oil (21.8 g).

reactant | 5-bromo-2,3-dichlorobenzotrifluoride | 26.2 g | BrC=1C=C(C(=C(C1)C(F)(F)F)Cl)Cl | C7H2BrCl2F3
reactant | diisopropyl ether | 9.1 g | C(C)(C)OC(C)C | C6H14O
reactant | n-butyllithium | 1.55M | C(CCC)[Li]
reactant | trimethoxyborane | 9.26 g | COB(OC)OC | C3H9BO3
reactant | 2-bromo-3,3,3-trifluoropropene | 23.4 g | BrC(=C)C(F)(F)F | C3H2BrF3
reactant | potassium carbonate | 36.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | hexane | 250 mL | CCCCCC | C6H14
solvent | hexane | 57.5 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene(1,4-naphthoquinone)palladium(0) dimer | 0.131 g | CC(C)C1=C(C(=CC=C1)C(C)C)N2C=CN(C2=[Pd])C3=C(C=CC=C3C(C)C)C(C)C.CC(C)C1=C(C(=CC=C1)C(C)C)N2C=CN(C2=[Pd])C3=C(C=CC=C3C(C)C)C(C)C.C1=CC=C2C(=O)C=CC(=O)C2=C1.C1=CC=C2C(=O)C=CC(=O)C2=C1
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 150 mL | O | H2O
product | 3,4-Dichloro-5-trifluoromethyl-1-[1-(trifluoromethyl)ethenyl]benzene | 21.8 g | ClC=1C=C(C=C(C1Cl)C(F)(F)F)C(=C)C(F)(F)F | C10H4Cl2F6
